US07727988B2
5-(3-pyridazinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride (E66).
A solution of 3-(2,4-dioxo-5-pyridazin-3-yl-3,4-dihydro-2H-pyrimidin-1-yl)-propionaldehyde hydrochloride (Prep123, 100 mg, 0.35 mmol), (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane (Prep4, 80 mg, 0.35 mmol), and AcOH (21 mg, 0.35 mmol) in dichloroethane-MeOH (1-1, 4 ml) was cooled to 0° C. NaBH(AcO)3 (83 mg, 0.39 mmol) was added portionwise. The mixture was stirred at 0° C. for further one hour and then basified with 1N NaOH. The product was extracted with ethyl acetate. The organic phase was dried (Na2SO4) and evaporated. The residue was redissolved in DCM and stirred for 72 hours in the presence of PS-isocyanate (300 mg). The mixture was filtered and the solvent evaporated. The crude was triturated with diethyl ether to give 20 mg the free base of title compound (12% yield).

reactant | 3-(2,4-dioxo-5-pyridazin-3-yl-3,4-dihydro-2H-pyrimidin-1-yl)-propionaldehyde hydrochloride | 0.35 mmol, 100 mg | Cl.O=C1N(C=C(C(N1)=O)C=1N=NC=CC1)CCC=O
reactant | (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane | 0.35 mmol, 80 mg | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | AcOH | 0.35 mmol, 21 mg | CC(=O)O | C2H4O2
reactant | NaBH(AcO)3 | 0.39 mmol, 83 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | dichloroethane MeOH | 4 ml | ClC(C)Cl.CO
product | 5-(3-pyridazinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride | 12% yield | Cl.Cl.N1=NC(=CC=C1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C23H22F3N5O2.2ClH/c24-23(25,26)16-6-4-15(5-7-16)22-11-17(22)12-30(14-22)9-2-10-31-13-18(20(32)28-21(31)33)19-3-1-8-27-29-19;;/h1,3-8,13,17H,2,9-12,14H2,(H,28,32,33);2*1H/t17-,22+;;/m0../s1
